US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
A solution of 2-{3-[3-(2-ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester (130 mg, 0.236 mmol) in methanol (4 mL) was treated with 1 M lithium hydroxide solution at 60° C. for 3 h. The mixture was cooled to room temperature, concentrated in vacuo, and diluted with water. The solution was adjusted to pH ˜4 and extracted three times with methylene chloride. The combined organic layers were dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in a minimum of methylene chloride and hexane was added until the solution became cloudy. The mixture was concentrated slowly in vacuo to give 96 mg (76%) of the title compound. 1H NMR (CDCl3) δ 8.90 (s, 1H), 8.23 (dd, J=8, 1 Hz, 1H), 7.41 (m, 2H), 7.38 (s, 1H), 7.29 (m, 2H), 6.82 (d, J=8 Hz, 1H), 6.71 (d, J=3 Hz, 1H), 6.62 (d, J=8 Hz, 1H), 6.54 (s, 1H), 4.25 (t, J=6 Hz, 2H), 4.22 (t, J=6 Hz, 2H), 2.59 (m, 4H), 2.35 (quintet, J=6 Hz, 2H), 1.50 (hextet, J=8 Hz, 2H), 1.19 (t, J=7 Hz, 3H), 0.88 (t, J=8 Hz, 3H); TOF MS ES+ exact mass calculated for C30H32NO6S (p+1): m/z=534.1950. Found: 534.1957. IR (CHCl3, cm−1) 2965, 1738, 1454. Anal. Calcd for C30H31NO6S: C, 67.52; H, 5.86; N. 2.62. Found: C, 67.19; H, 5.72; N, 2.53.

reactant | 2-{3-[3-(2-ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester | 0.236 mmol, 130 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)O)C=1N=CSC1)CC)CCC)=O | C31H33NO6S
reactant | lithium hydroxide | 1 M | [OH-].[Li+]
solvent | methanol | 4 mL | CO | CH4O
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 96 mg, 76% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1N=CSC1)O | C30H31NO6S
